US07253196B2
2-(cyclooctylamino)-5-ethyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-cyclooctyl-thiourea and 2-bromo-butyric acid according to Method C1.

reactant | N-cyclooctyl-thiourea | C1(CCCCCCC1)NC(=S)N | C9H18N2S
reactant | 2-bromo-butyric acid | BrC(C(=O)O)CC | C4H7BrO2
product | 2-(cyclooctylamino)-5-ethyl-1,3-thiazol-4(5H)-one | C1(CCCCCCC1)NC=1SC(C(N1)=O)CC | C13H22N2OS
